US04939064
Synthesis of 1-naphthylsulfonylacetic acid (A-9)
In 45 ml of isopropyl alcohol were suspended 44 g of 1-naphthalenesulfinic acid, 17.4 g of potassium carbonate and 34.4 g of isopropyl chloroacetate. The suspension was heated to reflux for three hours. The reaction mixture was cooled, and 20% aqueous solution of 13.8 g of sodium hydroxide was added to the mixture. The mixture was stirred for one hour. The resulting solution was diluted with 58 ml of water. To the solution was added 58 ml of hydrochloric acid. The precipitated crystals were recovered by filtration and air-dried. The yield was 54.9 g (95.8% of theoretical value).

reactant | 1-naphthalenesulfinic acid | 44 g | C1(=CC=CC2=CC=CC=C12)S(=O)O | C10H8O2S
reactant | potassium carbonate | 17.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl chloroacetate | 34.4 g | ClCC(=O)OC(C)C | C5H9ClO2
reactant | sodium hydroxide | 13.8 g | [OH-].[Na+]
reactant | hydrochloric acid | 58 ml | Cl | ClH
solvent | isopropyl alcohol | 45 ml | C(C)(C)O | C3H8O
solvent | water | 58 ml | O | H2O
product | 1-naphthylsulfonylacetic acid | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)CC(=O)O | C12H10O4S
